US05003103
2-chloro-4,5-difluorobenzoic acid may be prepared by decarboxylating 4,5-difluorophthalic anhydride or 4,5-difluorophthalic acid to form 3,4-difluorobenzoic acid in N-methyl-2-pyrrolidone, quinoline, or dimethyl acetamide optionally using copper, copper oxide, copper salts, or halides and salts of Zn, Cd, Ag and Ni as a catalyst, treating said 3,4-difluorobenzoic acid with a mixture of nitric and sulfuric acids, to produce 2-nitro-4,5-difluorobenzoic acid, and treating said 2-nitro-4,5-difluorobenzoic acid with elemental chlorine to form 2-chloro-4,5-difluorobenzoic acid.

reactant | 2-nitro-4,5-difluorobenzoic acid | [N+](=O)([O-])C1=C(C(=O)O)C=C(C(=C1)F)F | C7H3F2NO4
reactant | chlorine | ClCl | Cl2
product | 2-chloro-4,5-difluorobenzoic acid | ClC1=C(C(=O)O)C=C(C(=C1)F)F | C7H3ClF2O2
